US09302991B2
<Step-3>: 6-methyl-2-(oxazol-2-ylamino)-N-((6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methyl)pyrimidine-4-carboxamide (Example-507)
The title compound is prepared from 6-methyl-2-(oxazol-2-ylamino)pyrimidine-4-carboxylic acid (25 mg, 0.11 mmol, Step-1) and (6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methanamine hydrochloride (28 mg, 0.11 mmol) by the similar manner in Example-2.

reactant | 6-methyl-2-(oxazol-2-ylamino)pyrimidine-4-carboxylic acid | 0.11 mmol, 25 mg | CC1=CC(=NC(=N1)NC=1OC=CN1)C(=O)O | C9H8N4O3
reactant | (6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methanamine hydrochloride | 0.11 mmol, 28 mg | Cl.FC(COC1=CC=C(C=N1)CN)(F)F
product | 6-methyl-2-(oxazol-2-ylamino)-N-((6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methyl)pyrimidine-4-carboxamide | CC1=CC(=NC(=N1)NC=1OC=CN1)C(=O)NCC=1C=NC(=CC1)OCC(F)(F)F | C17H15F3N6O3
